US05112841
(3) 3-Phenyl-5-chloro-1,2,4-oxadiazole
To 53 g of phosphorus oxychloride were added 12.6 g (18 mmol) of 3-phenyl-1,2,4-oxadiazol-5-ol, followed by the further addition of 2.8 g (35 mmol of pyridine. The resultant mixture was heated under stirring for 8 hours. The reaction mixture was allowed to cool down to room temperature and then transferred into 500 ml of ice water. The resultant liquid mixture was extracted with ether. The extract was washed successively with water, a 5% aqueous solution of sodium hydroxide and water. The organic layer was dried and the solvent was distilled off. When the residue was left over under cooling, the title compound was obtained as pale brown crystals.

reactant | phosphorus oxychloride | 53 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-phenyl-1,2,4-oxadiazol-5-ol | 18 mmol, 12.6 g | C1(=CC=CC=C1)C1=NOC(=N1)O | C8H6N2O2
reactant | pyridine | 35 mmol | N1=CC=CC=C1 | C5H5N
product | 3-Phenyl-5-chloro-1,2,4-oxadiazole | C1(=CC=CC=C1)C1=NOC(=N1)Cl | C8H5ClN2O
